US05443971
6-Methyl-4-hydroxypyran-2-one may be oxidised with selenium dioxide in boiling diglyme to give 6-formyl-4-hydroxypyran-2-one;

reactant | 6-Methyl-4-hydroxypyran-2-one | CC1=CC(=CC(O1)=O)O | C6H6O3
reactant | selenium dioxide | [Se](=O)=O | O2Se
solvent | diglyme | COCCOCCOC | C6H14O3
product | 6-formyl-4-hydroxypyran-2-one | C(=O)C1=CC(=CC(O1)=O)O | C6H4O4
